US06271385B1
N-[3-(4-t-Butylphenyl)-2-methylpropyl]-6-chloro-3-pyridylmethylamine (I-3) (Indicating the Compound Number in the Tables and so Forth Hereunder)
Route A: After suspending 620 mg (9.84 mmol) of sodium cyanoborohydride in 2 ml of absolute methanol, 700 mg (4.91 mmol) of 6-chloro-3-pyridylmethylamine was added thereto. Subsequently, to this was added a solution of 1.0 g (4.90 mmol) 3-(4-t-butylphenyl)-2-methylpropionaldehyde/2 ml absolute methanol by portions and then, stirring was conducted at room temperature for 4 h.

reactant | sodium cyanoborohydride | 9.84 mmol, 620 mg | C(#N)[BH3-].[Na+]
reactant | 6-chloro-3-pyridylmethylamine | 4.91 mmol, 700 mg | ClC1=CC=C(C=N1)CN | C6H7ClN2
reactant | 3-(4-t-butylphenyl)-2-methylpropionaldehyde | 4.90 mmol, 2 ml, 1.0 g | C(C)(C)(C)C1=CC=C(C=C1)CC(C=O)C | C14H20O
solvent | methanol | 2 ml | CO | CH4O
product | N-[3-(4-t-Butylphenyl)-2-methylpropyl]-6-chloro-3-pyridylmethylamine | C(C)(C)(C)C1=CC=C(C=C1)CC(CNCC=1C=NC(=CC1)Cl)C | C20H27ClN2
